* Z:\home\luca\Desktop\Uni\appunti\Elettronica Digitale\spice\inverter_rtl_improved.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N002 0 PULSE(0 5 200n 10n 10n 1u 4u)
Q2 out N005 0 0 2N2222
R3 N001 out 1K
VCC N001 0 5
R1 N005 0 {Rb}
D1 N004 N005 D
D2 N003 N004 D
R2 N001 N003 10K
D3 N003 N002 D
.model D D
.lib C:\users\luca\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\luca\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 10u 0
* V1
.step param Rb 1K 10K 1K
.backanno
.end
